Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Suicidal Ideation
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:
___ is a ___ year old female with no diagnosed past 
medical or psychiatric illness who presented to the ___ ED 
following a "panic attack" as well as suicidal ideation and plan 
to self-harm via cutting. At the time of interview the patient 
denies active plan to attempt suicide though is still "thinking 
about" harming herself via cutting.
 
The patient reports that she was in her usual state of health 
with usual mood about a month ago. Two weeks ago her grandfather 
was admitted to the hospital and his course has been very 
distressing to the patient. She also reports having "drama" with 
her close friends at school over the past two weeks which 
culminated in an "altercation" the evening of presentation in 
which she and her friends attempted to discuss past issues. This 
attempt did not go well and led to shouting and escalating 
tension. After she parted ways with these friends she began to 
hyperventilate, feel chest pain, become lightheaded, and become 
increasingly warm and overheated. At this time she was very 
stressed about the recent altercation and was thinking about 
cutting herself as a means of decreasing tension and also 
considered attempting suicide though she denies ever making a 
plan or thinking that she would act on this thought. Instead, 
she notes that suicide has been "in the back of [her] mind" for 
the past few weeks as a way to escape her problems. She has 
never made plans to attempt suicide in the past and cites love 
of her family as a protective factor as well as hopes for the 
future (most of which involve progressing in her studies).
 
During the above events she contacted a friend from home ___ 
___, see below) and mentioned her desire to hurt herself. 
This friend was alarmed and felt hopeless due to distance and 
thus called ___ to seek care for the patient. When EMS arrived 
the patient reports feeling "annoyed" and did not think she 
needed treatment.

While in high school the patient experienced depressed mood and 
engaged in non-suicidal self-injurious behavior via cutting her 
extremities. On interview today she reports that cutting helped 
relieve tension and give her control over her life. She starting 
cutting sophomore year in high school and stopped in her senior 
year citing her increased control over her life at that time 
which eliminated the main drive to cut. She did not tell others 
about this activity until senior year. Since starting freshman 
year at college she cut one time early in freshman year but has 
not since then though she has thought about it many times. 
 
The patient reports symptoms of depression including depressed 
mood, anhedonia, passive SI, sleep disturbance including 
insomnia or hypersomnia, loss of appetite, poor concentration, 
and psychomotor agitation ("fidgeting").  As above she denies 
history of suicide attempt or history of active SI with plan. 
The patient reports symptoms of mania including distractibility, 
erratic behavior, flight of ideas, increased goal directed 
activity (including cleaning her entire dorm late in the night, 
starting ___ projects abruptly and quitting them abruptly) , and 
talkativeness/pressured speech.  She reports that she will often 
for 48 hours without sleeping with increased goal-directed 
activity and pressured speech and then will "crash" due to 
exhaustion and sleep for >16 hours and feel extremely fatigued. 
This cycle appears to be fueled in part by caffeinated drinks. 
The patient denies psychotic symptoms such as auditory or visual 
hallucinations, paranoia, or delusions.
 
COLLATERAL:
This writer spoke with the patient's friend ___ 
(___) the evening of presentation. The two have been 
friends since their ___ year in high school and have dated 
intermittently in that time with most recent break-up being this 
past ___. The friend reports that the two remain 
in frequent contact (via text) and a few days ago the patient 
reported feeling increasingly depressed and overwhelmed with 
psychosocial stressors. The evening of presentation the patient 
send a SnapChat messaged saying "I'm over life right now. I'm 
seriously thinking about killing myself tonight. Can you help me 
please?" The friend then called the patient who was reportedly 
"hysterical" and repeated that she was "feeling like killing 
herself" the night of presentation. The friend was "terrified" 
by this phone call and called EMS (from her home in ___). 
She reports that the patient has suffered with depression for 
some time but has never been as depressed as she was the night 
of admission. ___ notes recent stressors including feeling 
isolated at school, her roommate recently moving out, and her 
relative's illness. As far as ___ is aware, the patient has 
never attempted suicide or been treated for a psychiatric 
illness.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
 - Prior diagnoses: none
 - Hospitalizations: none
 - Current treaters and treatment: none
 - Medication and ECT trials: none
 - Suicide attempts: denies
 - Self-injurious behavior: Cutting as above
 - Harm to others: denies
 - Access to weapons: denies
 
PAST MEDICAL HISTORY: No history of seizures, head injuries, or 
other medical illnesses
 
Social History:
SUBSTANCE ABUSE HISTORY:
 - Alcohol: denies
 - Cocaine/amphetamines/speed: denies
 - Opiates: denies
 - Benzodiazepines: denies
 - Marijuana/LSD/PCP: denies
 - ___: denies
 - Caffeine: Reports drinking many cappuccinos and caffeinated 
soft drinks
 
FORENSIC HISTORY:
 - Arrests: denies
 - Convictions and jail terms: denies
 - Current status (pending charges, probation, parole): denies
 
SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY: None 

 
Physical Exam:
ADMISSION:
VS: T: 98.2, BP: 120/74, HR: 92, O2 sat: 100% on RA
- General: Young female in NAD. Well-nourished, well-developed.
Appears stated age.
- HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx
clear.
- Lungs: CTA ___. No crackles, wheezes, or rhonchi.
- CV: RRR, no murmurs/rubs/gallops. 
- Abdomen: +BS, soft, nontender, nondistended. No palpable 
masses
or organomegaly.
- Extremities: No clubbing, cyanosis, or edema.
- Skin: No rashes, abrasions, scars, or lesions. 
Neurological:
- Motor: Normal bulk and tone bilaterally. No abnormal 
movements,
no tremor.
- Gait: Steady. Normal stance and posture. No truncal ataxia.
Cognition: 
  Wakefulness/alertness: awake and alert
  Attention: intact to interview, MOYB
  Orientation: oriented to person, time, place, situation
  Memory: intact to recent and past history. Intact to three
object recall.
  Fund of knowledge: consistent with education. Knows three most
recent presidents.
  Calculations: $1.75 = seven quarters
  Abstraction: intact to proverb (grass is always greener on the
other side = things always look better for other people)
  Speech: normal rate, volume, and tone
  Language: native ___ speaker, no paraphasic errors,
appropriate to conversation
Mental Status:
- Appearance: No apparent distress, appears stated age, wearing
hospital gown, streaks of dyed green hair
- Behavior: Calm, cooperative, engaged, friendly, pleasant,
appropriate eye contact, no psychomotor agitation or retardation
- Mood and Affect: "much better than when I came in" / euthymic,
restricted range, occasionally smiles and briefly laughs
- Thought Process: linear, coherent. No LOA.
- Thought Content: denies SI/HI/AH/VH, no evidence of delusions
or paranoia
- Judgment and Insight: poor/poor

DISCHARGE:
Objective:
*VS: T 98.3 F, BP 135/80, HR 84, RR 16, SaO2 100% on RA
Neurological:
*station and gait: Normal station and gait
*tone and strength: Grossly normal tone and strength
Mental Status:
*Appearance: Young, thin Caucasian woman with green stripes in
her hair. Dressed in casual clothes. 
*Behavior: Calm, cooperative, friendly, smiling, good eye 
contact
*Mood and Affect: "Good" / Euthymic
*Thought process: Linear, goal-directed
*Thought Content: Denies SI/AVH/HI/Urge for SIB
*Judgment and Insight: Fair / Fair
*Speech: Regular rate, rhythm, tone and prosody
*Language: ___, fluent
Cognition:
*Attention: Attends to interview
*Orientation: Fully oriented
*Memory: WNL
*Fund of knowledge: WNL
 
Pertinent Results:
___ 11:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 11:00PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 11:35PM   WBC-7.1 RBC-3.92 HGB-9.7* HCT-32.0* MCV-82 
MCH-24.7* MCHC-30.3* RDW-15.5 RDWSD-46.5*
___ 11:35PM   NEUTS-76.8* LYMPHS-16.8* MONOS-5.1 EOS-0.4* 
BASOS-0.3 IM ___ AbsNeut-5.46 AbsLymp-1.19* AbsMono-0.36 
AbsEos-0.03* AbsBaso-0.02
___ 11:35PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 11:35PM   GLUCOSE-90 UREA N-8 CREAT-0.6 SODIUM-139 
POTASSIUM-3.9 CHLORIDE-106 TOTAL CO2-22 ANION GAP-___. LEGAL & SAFETY:  
On admission, the patient was admitted on a ___, but she 
signed a conditional voluntary agreement (Section 10 & 11) the 
following morning and remained on that level throughout her 
admission. 
 
2. PSYCHIATRIC:
#) MAJOR DEPRESSIVE DISORDER:
On presentation to the emergency department, the patient 
reported feeling overwhelmed by an argument that she had with a 
former roommate before her presentation.  She reported that 
during that period she had a panic attack and had some suicidal 
thoughts without significant planning or intent.  She noted that 
she had felt depressed for the year prior to her admission, but 
that the last month was particularly difficult for her.  She 
endorsed many neurovegetative symptoms of depression and says 
that these symptoms have started to get into the way of her 
school work, causing more stress. 

The patient adjusted to the milieu without significant issues.  
She was started on sertraline and increased to a final dose of 
75 mg PO daily. She was initially hesitant to engage in 
socialization and unit milieu. However, w/ encouragement and 
improvement of symptoms, patient demonstrated marked improvement 
in socialization. Patient was able to discuss stressors and 
problem solve for the future. On discharge, her exam was notable 
for euthymic affect. Patient was future oriented and motivated 
to return to school. Patient was able to discuss a plan for 
future stressors and stated she would reach out for help if 
needed.
 
3. SUBSTANCE USE DISORDERS:
#) NONE
 
4. MEDICAL
#) NONE
 
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient’s primary team met with them daily and various 
psychotherapeutic modalities were utilized during those times. 
 
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
The primary team was in contact with the providers at her 
___ to ease her transition back to the community.
 
#) INTERVENTIONS
- Medications: The patient was started on sertraline to help 
improve her mood and hydroxyzine for her mood and anxiety.
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: The patient was provided with 
appointments for a psychiatrist and a therapist after discharge.
 
INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and I  
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT:
Low imminent risk of harm/violence to self/others.

#) Chronic/Static Risk Factors:
Longstanding suicidal ideation and self harm, impulsivity, prior 
self-injurious behavior, age, single status, lack of outpatient 
treaters at admission, and recent stressful events.

#) Modifiable Risk Factors:
-Acute major mood episode- Modified by medication adjustments 
and psychotherapeutic intervention.
-Limited outpatient psychiatric support- Modified by 
establishing care w/ psychiatric treaters
-Active suicidal ideation- Modified by medication adjustments 
and psychotherapeutic intervention.

#) Protective Factors:
Help-seeking behavior, social supports, family connections, 
educational goals, and no substance use. Current risk is 
low/moderate for intentional self-harm given that pt denies 
suicidal ideation, intent and plan, is accepting of treatment, 
is currently sober and is future oriented with plans.

PROGNOSIS:
Good - Pt is future oriented, w/ significant improvement in sx 
and safety. However, given pt's history of self harm, 
impulsivity, and vulnerability to stress, she is at risk for 
recurrent episodes, especially when under stress.
 
Medications on Admission:
None
 
Discharge Medications:
1. Sertraline 75 mg PO DAILY 
RX *sertraline 25 mg 3 (Three) tablet(s) by mouth daily Disp 
#*90 Tablet Refills:*0
2. HydrOXYzine ___ mg PO Q6H:PRN anxiety 
RX *hydroxyzine HCl 25 mg 1 to 2 by mouth twice daily Disp #*60 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized at ___ for panic attack, worsening 
suicidal ideation, and urge to self-harm. We adjusted your 
medications, and you are now ready for discharge and continued 
treatment in partial program.

-Please follow up with all outpatient appointments as listed -
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether
prescription drugs or illegal drugs--as this can further worsen
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you
feel unsafe in any way and are unable to immediately reach your
health care providers.

*It was a pleasure to have worked with you, and we wish you the
best of health.*

 
Followup Instructions:
___